US04128664
To a stirred solution of 13.43 g. (0.05 mole) of 3,5-di(t-butyl)-4-hydroxybenzoyl chloride in 50 ml. of dichloromethane is added dropwise 8.77 g. (0.12 mole) of t-butylamine. The mixture obtained is neutralized carefully with 10 percent hydrochloric acid and washed thrice with 200 ml. portions of water. The organic layer is dried, then evaporated under vacuum to provide a white residue. The residue is dissolved in hot benzene-hexane mixture and crystallized to provide 3,5-di(t-butyl)-4-hydroxy-N-t-butylbenzamide, m.p. 207°-208° C.

reactant | 3,5-di(t-butyl)-4-hydroxybenzoyl chloride | 0.05 mole | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | t-butylamine | 0.12 mole | C(C)(C)(C)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | benzene hexane | C1=CC=CC=C1.CCCCCC
product | 3,5-di(t-butyl)-4-hydroxy-N-t-butylbenzamide | C(C)(C)(C)C=1C=C(C(=O)NC(C)(C)C)C=C(C1O)C(C)(C)C | C19H31NO2
